US05089504
A. Preparation of ethyl 2-butyryl-3 -(2-(hydroxymethyl)-phenylamino)acrylate
A mixture of ethyl 2-butyryl-3-ethoxyacrylate (23.5 g, 0.11 mol) and 2-aminobenzyl alcohol (12.3 g, 0.1 mol) was heated to 100° for 10 minutes, then diluted with petroleum ether. On cooling, ethyl 2-butyryl-3-(2-(hydroxymethyl)phenylamino)acrylate (24.9 g, 85%) crystallized as a mixture of E/Z isomers, and was filtered off and washed with petroleum ether.

reactant | ethyl 2-butyryl-3-ethoxyacrylate | 0.11 mol, 23.5 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
reactant | 2-aminobenzyl alcohol | 0.1 mol, 12.3 g | NC1=C(CO)C=CC=C1 | C7H9NO
product | ethyl 2-butyryl-3 -(2-(hydroxymethyl)-phenylamino)acrylate | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)CO | C16H21NO4
